* Z:\mnt\design.r\spice\examples\3418.asc
L1 N003 OUT .2µ
R1 OUT N006 4.32K
V1 IN 0 5
R2 N006 N008 332
R3 N007 0 30.1K
R4 N005 N004 4.99K
C1 OUT 0 100µ Rser=3m x2
C2 N004 0 820p
R5 OUT N001 10K
C3 N002 0 1000p
R6 N008 0 1.69K
R7 IN N002 2.2Meg
XU1 N007 N008 0 N003 0 IN IN N001 N006 N005 N002 IN LTC3418
Rload OUT 0 .3125
.tran 1m startup
.lib LTC3418.sub
.backanno
.end
